Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Fever, sore throat, cough, palpable neck mass
 
Major Surgical or Invasive Procedure:
___ PICC line
 
History of Present Illness:
___ yo female with h/o sickle cell anemia who presented to the ED 
with a 3 day history of fever, sore throat, cough with green 
sputum, SOB, pleuritic CP, and RUQ pain. She reports that she 
woke up 3 days ago feeling acutely ill and felt a fullness in 
her neck. She had one episode of emesis at that time. In 
addition she has noticed some small bumps on her abdomen. She 
also has been having worsening chest, back, abdomen and joint 
pain for the past two days. The chest pain is sharp and 
substernal, the back pain is sharp mainly in the LLQ and the 
abdominal pain is worst mainly in the LUQ. Patient has also had 
a 3 day history of dysuria, without hematuria. 
 
Past Medical History:
Sickle cell (HbSS) disease with frequent hospitalizations with 
pain crises. 
s/p acute chest syndrome requiring intubation in ___. 
? CVA in ___
Pulmonary embolus in ___. 
Asthma
Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations.
Transfusion-related Hepatitis C
s/p cholecystectomy
Hx of seizure disorder-details unknown
Hx of numerous port-a-cath placements
Hx of coag-negative staph and MSSA line infections
Hyperprolactinemia

 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia
also fam hx of HTN, HL, DM type II, blindness

 
Physical Exam:
PHYSICAL EXAM:  
Vitals - T: 97.7 BP: 94/48 HR: 78 RR: 18 02 sat: ???  
GENERAL: Appears uncomfortable, irritated but cooperative, in 
NAD  
HEENT: NC/AT, conjunctiva clear, sclera anicteric, MMM, left 
tonsillar erythematous but no exudate visualized, there is no 
cervical, auricular, occipital or supraclavicular 
lymphadenopathy. There is a 4x2 cm area of indurated skin over 
the left sternocleidomastoid muscles with slight warmth, 
erythema, and excoriation from scratching. There is no 
fluctuance or evidence of a mass.
CARDIAC: RRR, grade II/VI systolic murmur at RUSB, no 
rubs/gallops  
LUNG: CTAB  
ABDOMEN: +BS, soft, non-distended, tender to palpation, no 
rebound or guarding, several mildly tender subcutaneous mobile 
nodules (patient pointed them out)  
EXT: wwp, without edema  
NEURO: A&Ox3, mostly deferred because of patient discomfort  
.  

 
Pertinent Results:
Admit Labs:
WBC-8.3# RBC-2.07* Hgb-8.2* Hct-23.5* MCV-113* MCH-39.6* 
MCHC-34.9 RDW-25.2* Plt ___
Neuts-40* Bands-0 Lymphs-44* Monos-15* Eos-1 Baso-0 Atyps-0 
___ Myelos-0 NRBC-3*
Hypochr-NORMAL Anisocy-1+ Poiklo-2+ Macrocy-1+ Microcy-NORMAL 
Polychr-OCCASIONAL Target-1+ Sickle-OCCASIONAL 
Schisto-OCCASIONAL Ret Man-8.9*
Glucose-98 UreaN-5* Creat-0.4 Na-134 K-4.3 Cl-101 HCO3-24 
AnGap-13

U/A:
Color-Yellow Appear-Clear Sp ___ Blood-NEG Nitrite-NEG 
Protein-NEG Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG 
pH-6.5 Leuks-NEG

___
Albumin-4.1
Phenyto-6.8*

Imaging:

CXR
No significant change from prior study or evidence of acute 
intrathoracic 
process. 

Ultrasound of Neck
Soft tissue edema involving the right (?left) soft tissues of 
the neck without evidence of focal fluid collection suggestive 
of abscess. No pathologically enlarged lymph nodes identified. 

CT Neck
IMPRESSION: 
1. Multiple scattered symmetric cervical lymph nodes, the 
largest of which is located within the submandibular region with 
prominent symmetric 1.5 cm in transverse diameter submandibular 
lymph nodes. 
2. No discrete mass identified. 
3. No abnormal fluid collection that will be concerning for 
abscess. 
NOTE ADDED AT ATTENDING REVIEW: The soft tissue noted above on 
image 25 of 
series 2 are the submandibular glands, not lymph nodes. As such, 
the glands
are within normal size, and therefore not indicative of an 
abnormality. 
There is no evidence of enlarged lymph nodes. However, it is 
true that 
sensitivity for adenopathy is reduced without intravenous 
contrast. If there is ongoing concern for adenopathy or other 
evidence of infection, and MR of the neck may be helpful.  

 
Brief Hospital Course:
NECK CELLULITIS: On presentation, the patient was febrile and 
tachycardic, and there was initial concern for a deep neck 
infection. Further imaging and physical exam showed this not to 
be the case. Rather, she has a small area of cellulitis on her 
neck. She was empirically treated with vancomycin and 
clindamycin in the ED, but this was changed to oral clindamycin.

Because of recent sick contacts, complaint of sore throat, and 
monocytosis, a monospot was sent; it was negative. CMV IgG is 
positive, IgM is negative. EBV serologies are pending.

 
Medications on Admission:
1. Docusate Sodium 100 mg PO BID  
2. Senna 8.6 mg PO DAILY  
3. Citalopram 20 mg PO DAILY  
4. Folic Acid 1 mg PO DAILY  
5. Gabapentin 300 mg PO Q8H  
6. Hydroxyurea 500 mg Two (2) Capsule PO DAILY  
7. Mirtazapine 15 mg Tablet PO HS (at bedtime).  
8. Phenytoin Sodium Extended 100 mg Two (2) Capsule PO BID  
9. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal  
BID (2 times a day) as needed for nasal dryness.  
10. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet  

Sustained Release PO Q12H (every 12 hours).  
11. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3  
hours) as needed for pain.  
12. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for  
Nebulization Sig: One (1) inhalation Inhalation every four (4)  
hours as needed for SOB, wheeze.  
13. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
14. Polyethylene Glycol 3350 100 % Powder Sig: One (1) 17g PO 
DAILY as needed for constipation.
 
Discharge Medications:
1. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) inhalation Inhalation Q4H (every 4 
hours) as needed for wheeze, SOB.  
3. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
8. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
9. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
10. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day).  
11. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours) as needed for pain.  
12. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
13. Polyethylene Glycol 3350 100 % Powder Sig: One (1) 17g PO 
DAILY (Daily) as needed for constipation. 17g 
14. Clindamycin HCl 150 mg Capsule Sig: Three (3) Capsule PO 
every six (6) hours for 5 days.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Left lateral neck cellulitis

 
Discharge Condition:
Afebrile, hemodynamically stable.

 
Discharge Instructions:
You presented to the emergency complaining of 3 days of fevers, 
cough, some shortness of breath, and swelling on the left side 
of your neck.  You also complained of some generalized pains.  
You had an ultrasoun of your neck performed that showed some 
swelling but no abscess.  You also had a CT scan performed of 
your neck which did not show any acute problem.  You were 
initally given IV antibiotics and then you were discharged on 
antibiotics to take by mouth.  Also, while you were in the 
hospital, you had a throat swab and tests for certian viruses 
performed.  You need to go to the follow-up appointment listed 
below to follow-up on these tests.
 
Followup Instructions:
___